US07402595B2
6-benzylamino-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride
To 4N-hydrochloric acid ethyl acetate solution (6 ml) was added 6-benzylamino-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), and the mixture was stirred at room temperature for 6 hrs. Crystals were collected by filtration to give the title compound (260 mg).

reactant | hydrochloric acid ethyl acetate | 6 ml | C(C)OC(C)=O.Cl
reactant | 6-benzylamino-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C36H34N2O5
product | 6-benzylamino-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride | 260 mg | Cl.COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(=O)O | InChI=1S/C32H26N2O5.ClH/c1-39-32(38)29-28(23-10-6-3-7-11-23)27-18-25(33-19-21-8-4-2-5-9-21)16-17-26(27)30(35)34(29)20-22-12-14-24(15-13-22)31(36)37;/h2-18,33H,19-20H2,1H3,(H,36,37);1H
